data/mechanism_extracts/JOC/10.1021_acs.joc.2c02579.json
{"doi": "10.1021_acs.joc.2c02579", "journal": "JOC", "is_review": false, "rxn_class_summary": "Metal-free electrochemical oxidative difluoroethylation/cyclization of N-arylacrylamides and N-methacryloyl-N-alkylbenzamides with sodium difluoroalkylsulfinates (RCF2SO2Na) to construct difluoroalkylated oxindoles and isoquinoline-1,3-diones.", "mechanism_family": ["radical_anodic", "direct_SET"], "electrochemical_role": "Anodic oxidation (SET) of the sulfinate anion MeCF2SO2- to a sulfonyl radical, which extrudes SO2 to give the difluoroethyl radical; a second anodic oxidation aromatizes the cyclohexadienyl radical intermediate; cathode reduces protons to H2.", "key_intermediates": [{"name": "sulfonyl radical A (MeCF2SO2•)", "smiles": "[O]S(=O)C(F)(F)C", "role": "transient"}, {"name": "difluoroethyl radical (•CF2Me)", "smiles": "[C](F)(F)C", "role": "reactive"}, {"name": "tertiary alkyl radical B (after addition to acrylamide)", "smiles": null, "role": "reactive"}, {"name": "cyclohexadienyl radical C (after ipso/ortho cyclization)", "smiles": null, "role": "reactive"}, {"name": "BHT-trapped / DPE-trapped adduct 36", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes MeCF2SO2- by SET to sulfonyl radical A, which loses SO2 to give •CF2Me; this carbon radical adds to the acrylamide alkene to form radical B, which cyclizes onto the aryl ring to give cyclohexadienyl radical C; C is oxidized at the anode (−e-, −H+) to rearomatize to product, while protons are reduced at the cathode to H2.", "rate_determining_step": "Anodic SET oxidation of MeCF2SO2Na to generate the difluoroethyl radical (MeCF2SO2Na oxidized at 0.72 V, more easily than the acrylamide at 1.35 V).", "probe_reagents": [{"name": "BHT (2,6-di-tert-butyl-4-methylphenol)", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction greatly inhibited; only trace product formed."}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Reaction fully suppressed; DPE-CF2Me adduct 36 isolated in 42%, confirming free difluoroethyl radical."}, {"name": "Hu's cathodic-reduction conditions (benzothiazolyl difluoroethyl sulfone, TBAOAc)", "smiles": null, "purpose": "intermediate_trap", "observation": "0% of oxindole 1 — cathodic-reduction protocol does not deliver the cyclized product, supporting an anodic-oxidation pathway."}, {"name": "difluoroethyl sulfone (replacing MeCF2SO2Na) under standard conditions", "smiles": null, "purpose": "intermediate_trap", "observation": "0% product, confirming that the difluoroethyl radical is produced by SET oxidation of the sulfinate, not from the sulfone."}, {"name": "controlled potential electrolysis at 0.73 V vs Ag/AgNO3", "smiles": null, "purpose": "redox_probe", "observation": "Product 1 obtained in 64% yield, confirming sulfinate oxidation at the anode initiates the reaction."}], "evidence_types_used": ["intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate", "stoichiometric_intermediate"], "evidence_strength": "strong", "notes": "CV shows MeCF2SO2Na oxidation peak at 0.72 V vs N-methyl-N-phenylmethacrylamide at 1.35 V, indicating sulfinate is preferentially oxidized at the anode. The method also extends to cyclopropyldifluoromethylsulfinate. No KIE or DFT was reported; mechanism is supported by radical trapping, CV, and controlled-potential electrolysis."}
